US06506747B1
Synthesis of Benzo[d]isoxazol-3-yl-{4-[3,5-bis(trifluoromethyl)pyrazol-1-yl]phenyl}amine (Method D)
To a stirred solution of 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole (0.20 g, 0.68 mmol) and 3-chlorobenzisoxazole (0.10 g, 0.65 mmol) in tetrahydrofuran (2.5 mL) under argon was added sodium bis-trimethylsilyl amide (1.0 M in tetrahydrofuran, 0.68 mL, 0.68 mmol). After seven days, the mixture was diluted with water, and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate) and concentrated. The residue was purified by flash chromatography (elution with ethyl acetate/hexanes) to give the above-named compound (0.050 g). m.p. 209-210° C. NMR (CDCl3, 400 MHz): δ 7.77 (d, 1H), 7.64 (m, 3H), 7.53 (d, 2H), 7.37 (m, 1H), 7.09 (s, 1H), 6.68 (s, 1H).

reactant | 1-(4′-aminophenyl)-3,5-bis(trifluoromethyl)pyrazole | 0.68 mmol, 0.20 g | NC1=CC=C(C=C1)N1N=C(C=C1C(F)(F)F)C(F)(F)F | C11H7F6N3
reactant | 3-chlorobenzisoxazole | 0.65 mmol, 0.10 g | ClC1=NOC2=C1C=CC=C2 | C7H4ClNO
reactant | sodium bis-trimethylsilyl amide | 0.68 mmol, 1.0 M, 0.68 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
solvent | tetrahydrofuran | 2.5 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Benzo[d]isoxazol-3-yl-{4-[3,5-bis(trifluoromethyl)pyrazol-1-yl]phenyl}amine | 0.050 g | O1N=C(C2=C1C=CC=C2)NC2=CC=C(C=C2)N2N=C(C=C2C(F)(F)F)C(F)(F)F | C18H10F6N4O
